US07470723B2
Lithium bis(trimethylsilyl)amide (8.5 mL, 8.5 mmol) was added dropwise to a stirred suspension of (ethyl)triphenylphosphonium bromide (3.14 g, 8.5 mmol) in anhydrous THF (30 mL) at 0° C. After 10 min at cold, the reaction mixture was stirred at room temperature for 40 min. The Wittig reagent was then added dropwise to a stirred suspension of (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-nitro-phenyl) -methanone (1.40 g, 4.2 mmol) in THF (30 mL) at 0° C. The reaction mixture was stirred at room temperature for 2 h. The solution was poured into ice water (100 mL) and extracted with CH2Cl2 (4×40 mL). The combined organic layers were washed with water (2×40 mL), brine (40 mL) and dried (MgSO4). Removal of solvent and chromatography (Silica Gel) gave a mixture of (E/Z) 4-[1-(3-ethoxy-4-methoxy-phenyl)-propenyl]-1-methoxy-2-nitro-benzene as a solid (1.12 g, 77% yield): 1H NMR (CDCl3) δ 1.41-1.46 (m, 6H, 2CH3), 1.75-1.80 (m, 6H, 2CH3), 3.86-4.08 (m, 16H, 4OCH3+2CH2), 6.06-6.15 (q, J=7.0 and 14.0 Hz, 2H, 2CH), 6.64-7.74 (m, 12H, Ar).

reactant | Lithium bis(trimethylsilyl)amide | 8.5 mmol, 8.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-nitro-phenyl) -methanone | 4.2 mmol, 1.40 g | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C17H17NO6
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | (ethyl)triphenylphosphonium bromide | 8.5 mmol, 3.14 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[1-(3-ethoxy-4-methoxy-phenyl)-propenyl]-1-methoxy-2-nitro-benzene | 1.12 g, 77% yield | C(C)OC=1C=C(C=CC1OC)C(=CC)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C19H21NO5
